US08053438B2
STEP 1: METHYL 4-(3-CHLOROPYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-CARBOXYLATE
To a solution of 2,3-dichloropyrazine (1.45 g, 9.73 mmol) and methyl tetrahydro-2H-pyran-4-carboxylate (2.60 mL, 19.47 mmol) in Toluene (19.47 mL) at room temperature was added LiHMDS (19.47 mL, 19.47 mmol, 1M solution) dropwise. After overnight room temperature stirring, reaction was quenched with saturated NH4Cl solution and extracted with EtOAc. Purification by Biotage (0-10% MeOH/DCM) produced product.

reactant | 2,3-dichloropyrazine | 9.73 mmol, 1.45 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | methyl tetrahydro-2H-pyran-4-carboxylate | 19.47 mmol, 2.60 mL | O1CCC(CC1)C(=O)OC | C7H12O3
reactant | LiHMDS | 19.47 mmol, 1M, 19.47 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | Toluene | 19.47 mL | C1(=CC=CC=C1)C | C7H8
product | METHYL 4-(3-CHLOROPYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-CARBOXYLATE | ClC=1C(=NC=CN1)C1(CCOCC1)C(=O)OC | C11H13ClN2O3
